US04638002
Preparation of 3-methoxymethyl-benzoic acid
12 g (55.75 millimoles) of 3-bromomethyl-benzoic acid are dissolved in 10 ml of anhydrous methanol and to the solution 22.30 ml of sodium methylate (concentration 5 millimoles/ml) are added dropwise at room temperature. The reaction mixture is stirred for 5-10 minutes, the methanol is removed in vacuo. The residue is dissolved in 10 ml of ethyl acetate, to the solution 2 ml of water are added and the pH of the mixture is adjusted to 2-3 with a 2N sodium hydrogen sulfate solution at 0° C. The layers are separated, the organic phase is dried, filtered and the solvent is distilled off in vacuo. Thus 8.55 g of the title compound are obtained, yield 92,3%.

reactant | 3-bromomethyl-benzoic acid | 55.75 millimoles, 12 g | BrCC=1C=C(C(=O)O)C=CC1 | C8H7BrO2
reactant | methanol | 10 ml | CO | CH4O
solvent | sodium methylate | 22.30 ml | C[O-].[Na+]
product | 3-methoxymethyl-benzoic acid | 8.55 g, yield 92,3% | COCC=1C=C(C(=O)O)C=CC1 | C9H10O3
